US08980929B2
Step C: (5S,6R)-6-(2,5-Difluorophenyl)-5-nitrotetrahydro-2H-thiopyran-3-ol
Sodium borohydride (190 mg, 5.03 mmol) 37.8 was added over 10 min to an ice cold solution of 6-(2,5-difluorophenyl)-5-nitro-3,6-dihydro-2H-thiopyran-3-ol (570 mg, 2.08 mmol) in MeOH (25 mL). The mixture was slowly warmed to room temperature and stirred for an additional 18 h. The orange solution was cooled in an ice bath and 2N HCl (2.6 mL, 5.2 mmol) was added dropwise. After 5 min, the solution was added to a mixture of EtOAc (100 mL) and saturated aqueous NaHCO3 (50 mL), the aqueous layer was re-extracted with additional EtOAc (2×50 mL), the combined EtOAc layers were washed with brine (1×50 mL), dried with MgSO4, filtered and evaporated to give the title compound as a foam.

reactant | Sodium borohydride | 5.03 mmol, 190 mg | [BH4-].[Na+]
reactant | 6-(2,5-difluorophenyl)-5-nitro-3,6-dihydro-2H-thiopyran-3-ol | 2.08 mmol, 570 mg | FC1=C(C=C(C=C1)F)C1C(=CC(CS1)O)[N+](=O)[O-] | C11H9F2NO3S
reactant | HCl | 5.2 mmol, 2N, 2.6 mL | Cl | ClH
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | MeOH | 25 mL | CO | CH4O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (5S,6R)-6-(2,5-Difluorophenyl)-5-nitrotetrahydro-2H-thiopyran-3-ol | FC1=C(C=C(C=C1)F)[C@@H]1[C@H](CC(CS1)O)[N+](=O)[O-] | C11H11F2NO3S
